US06984657B1
(iv) Ethyl N-[(4-chloro-3-trimethylsilylethynylphenyl)methyl]-5-acetoxyindole-2-carboxylate
Trimethylsilylacetylene (114 il) was added to a degassed solution of ethyl N-[(4-chloro-3-iodophenyl) methyl]-5-acetoxyindole-2-carboxylate (0.2 g), bis(triphenylphosphine)palladium (II) chloride (2 mg), triethylamine (56 il) and copper (I) iodide (1 mg) in acetonitrile and the mixture was stirred under an argon atmosphere for 12 hours. A further aliquot of bis(triphenylphosphine)palladium (II) chloride (2 mg) and trimethylsilylacetylene (114 il) was added and stirring continued for 2 hours. A further aliquot of trimethylsilylacetylene (114 il) was added and stirring was continued for 12 hours. A small amount of silica was added to the reaction mixture and the solvent was evaporated. The residue was added to a 5 g silica Isolute column and eluted with an ethyl acetate iso-hexane mixture (1:4) to give the title compound as a colourless oil (0.15 g). NMR (CD3SOCD3): d 0.0 (s, 9H), 1.1 (t, 31H), 2.1 (s, 3H), 4.1 (m, 2H), 5.6 (s, 2H), 6.7 (m, 2H), 6.9 (m, 2H), 7.1 (m, 1H), 7.2 (m, 2H), 7.3 (n, 1H), 7.4 (m, 1H); m/z 468.5 (M+H).

reactant | Trimethylsilylacetylene | C[Si](C)(C)C#C | C5H10Si
reactant | ethyl N-[(4-chloro-3-iodophenyl) methyl]-5-acetoxyindole-2-carboxylate | 0.2 g | ClC1=C(C=C(C=C1)CN1C(=CC2=CC(=CC=C12)OC(C)=O)C(=O)OCC)I | C20H17ClINO4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium (II) chloride | 2 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 1 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium (II) chloride | 2 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | Ethyl N-[(4-chloro-3-trimethylsilylethynylphenyl)methyl]-5-acetoxyindole-2-carboxylate | 0.15 g | ClC1=C(C=C(C=C1)CN1C(=CC2=CC(=CC=C12)OC(C)=O)C(=O)OCC)C#C[Si](C)(C)C | C25H26ClNO4Si
